US04276304
A mixture of 6.2 g of 1-(3,4-dimethoxyphenyl)-2-methyl-2-nitropropanol, 3 ml of thionyl chloride and 40 ml of anhydrous benzene is refluxed for 4 hours. After the reaction, the reaction mixture is evaporated to remove solvent. The residue (dark brown oil) is distilled at 145° C. under reduced pressure (0.15 mm Hg). 4.6 g of 1-(3,4-dimethoxyphenyl)-1-chloro-2-methyl-2-nitropropane are thereby obtained as pale yellow prisms.

reactant | 1-(3,4-dimethoxyphenyl)-2-methyl-2-nitropropanol | 6.2 g | COC=1C=C(C=CC1OC)C(C(C)([N+](=O)[O-])C)O | C12H17NO5
reactant | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | 1-(3,4-dimethoxyphenyl)-1-chloro-2-methyl-2-nitropropane | 4.6 g | COC=1C=C(C=CC1OC)C(C(C)([N+](=O)[O-])C)Cl | C12H16ClNO4
